US04772600
2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanamide
A mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid (5.52 g, 0.0183 mole) and 1,1'-carbonyldiimidazole (2.97 g, 0.0183 mole) was stirred at room temperature in dry tetrahydrofuran (100 ml) for 2.5 hours with a stream of nitrogen bubbling through it. Liquid ammonia (50 ml) was added to the reaction mixture (cooled in dry ice/acetone bath) and the mixture was allowed to warm to room temperature and was stirred for 2 days under nitrogen atmosphere. The solvents were removed under reduced pressure and the resulting solid was triturated in water (100 ml), collected by filtration, rinsed twice with water, twice with a 5% potassium hydroxide solution, and twice again with water. The solid was recrystallized from hot methanol and dried under high vacuum at 40° C. to give 2.86 g (52%) of title compound, mp. 248°-250° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid | 0.0183 mole, 5.52 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)O | C15H12ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0183 mole, 2.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | 2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanamide | 2.86 g, 52% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)N | C15H13ClN4O
